US08486967B2
b) 1-(6-Methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride
To a solution of [1-(6-methyl-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester (686 mg, 2.3 mmol) in CH2Cl2 (12 mL) was added at room temperature under stirring a 2 M HCl solution in diethyl ether (6 mL) and was stirred at room temperature over night. The precipitate was filtered off, washed with CH2Cl2 and diethyl ether and dried to yield the title compound as a light yellow solid (610 mg, 98%)

reactant | [1-(6-methyl-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 2.3 mmol, 686 mg | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=NC(=C1)C)=O | C15H24N4O2
reactant | HCl | 2 M | Cl | ClH
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 6 mL | C(C)OCC | C4H10O
product | 1-(6-Methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride | 610 mg, 98% | Cl.Cl.CC1=CC(=NC=N1)N1CCC(CC1)N | InChI=1S/C10H16N4.2ClH/c1-8-6-10(13-7-12-8)14-4-2-9(11)3-5-14;;/h6-7,9H,2-5,11H2,1H3;2*1H
